US05026856
7-(4-hydroxy-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
136 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 130 mg of 4-hydroxyisoindoline hydrobromide, 114 mg of 1,8-diazabicyclo[5,4,0]-7-undecene (DBU), and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 1 to produce 37 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 4-hydroxyisoindoline hydrobromide | 130 mg | Br.OC1=C2CNCC2=CC=C1
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 114 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-hydroxy-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 37 mg | OC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H16F2N2O4
